US07687503B2
10.3. 2-(methylamino)-2-oxoethyl 4-{6-[3-(trifluoro-methyl)phenyl]-3-pyridazinyl}-1-piperazinecarboxylate
The procedure described in Example 1 (step 1.4.) is used. Starting with 0.66 g (1.51 mmol) of 2-(ethyloxy)-2-oxo-ethyl 4-{6-[3-(trifluoromethyl)phenyl]-3-pyridazinyl}-1-piperazinecarboxylate, obtained in step 10.2., and 3 ml (6.02 mmol) of a solution of methylamine (2M) in tetrahydrofuran, and after chromatography on silica gel, eluting with a 96/4 mixture of dichloromethane and methanol, followed by washing with diisopropyl ether, 0.50 g of product is obtained in the form of a white solid.

reactant | 2-(ethyloxy)-2-oxo-ethyl 4-{6-[3-(trifluoromethyl)phenyl]-3-pyridazinyl}-1-piperazinecarboxylate | 1.51 mmol, 0.66 g | FC(C=1C=C(C=CC1)C1=CC=C(N=N1)N1CCN(CC1)C(=O)OCC(=O)OCC)(F)F | C20H21F3N4O4
reactant | methylamine | 2M | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 2-(methylamino)-2-oxoethyl 4-{6-[3-(trifluoro-methyl)phenyl]-3-pyridazinyl}-1-piperazinecarboxylate | 0.50 g | FC(C=1C=C(C=CC1)C1=CC=C(N=N1)N1CCN(CC1)C(=O)OCC(=O)NC)(F)F | C19H20F3N5O3
